US08017792B2
A mixture of tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-benzyl-5-thio-D-glucopyranose (3.30 g, 5.15 mmol), pyridinium p-toluenesulfonate (518 mg, 2.06 mmol) and ethanol (58 mL) was stirred at 80° C. for two hours. The reaction mixture was cooled to room temperature and the solvent was concentrated. The obtained residue was dissolved in ethyl acetate. After this solution was washed with a saturated sodium bicarbonate aqueous solution and brine, it was dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 2,3,4,6-tetra-O-benzyl-5-thio-D-glucopyranose (2.89 g, quant) as a colorless crystal. 13C NMR (125 MHz, CHLOROFORM-d) δ 41.3, 67.8, 71.6, 73.0, 73.2, 75.6, 76.2, 81.9, 82.9, 84.4, 127.5, 127.7, 127.8, 127.9, 128.0, 128.3, 128.4, 128.5, 137.8, 138.3, 138.8.

reactant | tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-benzyl-5-thio-D-glucopyranose | 5.15 mmol, 3.30 g | O1C(CCCC1)C1(O)[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](S1)COCC1=CC=CC=C1 | C39H44O6S
reactant | pyridinium p-toluenesulfonate | 2.06 mmol, 518 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 58 mL | C(C)O | C2H6O
product | 2,3,4,6-tetra-O-benzyl-5-thio-D-glucopyranose | 2.89 g | C(C1=CC=CC=C1)O[C@H]1C(O)S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O5S
